US06462073B2
4-(4-Methoxy-benzenesulfonyl)-1-napthalene-ylmethyl-piperidine-4-carboxylic acid was prepared starting from 4-(4-methoxy-benzenesulfonyl)napthalene-ylmethyl-piperidine-4- carboxylic acid ethyl ester (6.3 g, 13 mmol) dissolved in methanol (30 mL), 10N sodium hydroxide (30 mL) and tetrahydrofuiran (30 mL). The resulting reaction mixture was worked up as outlined in example 83. Yield 2.3 g (36%). yellow solid mp 226-228° C., MS: 440.0 (M+H)+.

reactant | 4-(4-methoxy-benzenesulfonyl)napthalene-ylmethyl-piperidine-4- carboxylic acid ethyl ester | 13 mmol, 6.3 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)OC | C26H29NO5S
reactant | sodium hydroxide | 10N, 30 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 4-(4-Methoxy-benzenesulfonyl)-1-napthalene-ylmethyl-piperidine-4-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CC1=CC=CC2=CC=CC=C12)C(=O)O | C24H25NO5S
